US08198456B2
164.2 mg (2 mmols) 3-aminocrotononitrile and 150.2 mg (2 mmols) 2-methoxyethylamine were dissolved in 8 mL ethanol and refluxed under argon for 3 hours. The solvent was distilled off under vacuum and the residue dissolved in 10 mL acetic acid. 160.2 mg (1 mmol) 3-methyl-1H-indazole-5-carbaldehyde (from Synthetic Preparation 10) were added. The mixture was stirred for 3 hours at 100° C. and then concentrated under vacuum. Purification by column chromatography gave 1-(2-methoxy-ethyl)-2,6-dimethyl-4-(3-methyl-1H-indazol-5-yl)-1,4-dihydro-pyridine-3,5-dicarbonitrile (22 mg) (Cpd. No. 310). 1H-NMR (DMSO-d6): δ=12.68 (br s, 1H), 7.51 (s, 1H), 7.47 (d, 1H), 7.26 (d, 1H), 4.40 (s, 1H), 3.86 (t, 2H), 3.52 (t, 2H), 3.37 (s, 3H), 2.50 (s, 3H; covered by DMSO), 2.25 (s, 6H) ppm.

reactant | 3-aminocrotononitrile | 2 mmols, 164.2 mg | N\C(=C/C#N)\C | C4H6N2
reactant | 2-methoxyethylamine | 2 mmols, 150.2 mg | COCCN | C3H9NO
reactant | 3-methyl-1H-indazole-5-carbaldehyde | 1 mmol, 160.2 mg | CC1=NNC2=CC=C(C=C12)C=O | C9H8N2O
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | 1-(2-methoxy-ethyl)-2,6-dimethyl-4-(3-methyl-1H-indazol-5-yl)-1,4-dihydro-pyridine-3,5-dicarbonitrile | 22 mg | COCCN1C(=C(C(C(=C1C)C#N)C=1C=C2C(=NNC2=CC1)C)C#N)C | C20H21N5O
